USH0000963
Synthesis of 5-t-butyl-3-hydroxyisoxazole
583.7 g of hydroxylamine hydrochloride was dissolved in 2 l of a 4N aqueous solution of sodium hydroxide. 2 l of ethanol was added to the solution under cooling with ice. A 1:1 mixture of a 4N aqueous solution of sodium hydroxide and ethanol was added to the solution so that the pH thereof was adjusted to 10.0. 1,380 g of ethyl pivaloylacetate and a 1:1 mixture of a 4N aqueous solution of sodium hydroxide and ethanol were simultaneously added dropwise to the solution in such a manner that the pH of the reaction solution was 10±0.2 and the temperature thereof was 0° to 5° C. After the dropwise addition was finished, the reaction mixture was stirred at room temperature for 2 hours, and then poured into 6 kg of concentrated hydrochloric acid. The reaction mixture was allowed to stand for 12 hours. The resulting crystal was filtered off, thoroughly washed with water, and then dried. (Yield: 770 g (68.2%); m.p.: 99°-101° C.)

reactant | hydroxylamine hydrochloride | 583.7 g | Cl.NO
reactant | ethanol | 2 l | C(C)O | C2H6O
reactant | ethyl pivaloylacetate | 1,380 g | C(C(C)(C)C)(=O)CC(=O)OCC | C9H16O3
reactant | hydrochloric acid | 6 kg | Cl | ClH
solvent | sodium hydroxide | [OH-].[Na+]
product | 5-t-butyl-3-hydroxyisoxazole | C(C)(C)(C)C1=CC(=NO1)O | C7H11NO2
